US04194008
4-Cyclohexyl-2,6-diethyl-phenyl isothiocyanate
231 g of 4-cyclohexyl-2,6-diethyl-aniline in 300 ml of methylene chloride are added dropwise at 10°-15° C. to a suspension of 600 ml of methylene chloride, 500 ml of water, 200 g of calcium carbonate and 140 g of thiophosgene. The mixture is then heated to the boil, until the evolution of gas has ended. The batch, when cold, is filtered to remove solids, and the methylene chloride layer is dried over calcium chloride and fractionated; boiling point 175°-179° C./1.5 mm Hg; yield 251 g.

reactant | 4-cyclohexyl-2,6-diethyl-aniline | 231 g | C1(CCCCC1)C1=CC(=C(N)C(=C1)CC)CC | C16H25N
reactant | water | 500 ml | O | H2O
reactant | calcium carbonate | 200 g | C([O-])([O-])=O.[Ca+2]
reactant | thiophosgene | 140 g | C(=S)(Cl)Cl | CCl2S
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | 4-Cyclohexyl-2,6-diethyl-phenyl isothiocyanate | C1(CCCCC1)C1=CC(=C(C(=C1)CC)N=C=S)CC | C17H23NS
